US07893069B2
A solution of 5.0 g (50.0 mmol) 2-amino-thiazole, 10.7 g (50.0 mmol) 5-(pyridine-2-yl-ethynyl)-thiophene-2-carbaldehyde, 7.0 g (50.0 mmol) (2,4,4-trimethylpentane-2-yl)-isocyanide and 1.0 ml of a 70% aq. perchloric acid in chloroform (25 ml) was heated to 50° C. while being stirred for 5 d. Dilution with DCM was subsequently performed and a 1 molar aq. Na2CO3 sol. was added. After 10 min of stirring at RT, the phases were separated. The aqueous phase was extracted with DCM. The collected organic phases were dried over Na2SO4, filtered and concentrated in a vacuum. 11.86 g (27.3 mmol, 55%) 6-(5-pyridine-2-ylethynyl)thiophene-2-yl)-N-(2,4,4-trimethylpentane-2-yl)imidazo[2,1-b]thiazole-5-amine was obtained by multiple crystallisation of the residue from AE.

reactant | 2-amino-thiazole | 50.0 mmol, 5.0 g | NC=1SC=CN1 | C3H4N2S
reactant | 5-(pyridine-2-yl-ethynyl)-thiophene-2-carbaldehyde | 50.0 mmol, 10.7 g | N1=C(C=CC=C1)C#CC1=CC=C(S1)C=O | C12H7NOS
reactant | (2,4,4-trimethylpentane-2-yl)-isocyanide | 50.0 mmol, 7.0 g | CC(C)(CC(C)(C)C)[N+]#[C-] | C9H17N
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | Na2CO3 | 1 molar | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2,4,4-trimethylpentane-2-yl)imidazo[2,1-b]thiazole-5-amine | CC(C)(CC(C)(C)C)NC1=CN=C2SC=CN21 | C13H21N3S
